US07378418B2
Preparation of 7-Chloro-8-(4-chlorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
Using the procedure described in Example 274, 7-chloro-8-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one prepared as described in Example 273 was reacted with 5-(bromomethyl)-2-(trifluoromethyl)pyridine to give the title compound, 7-chloro-8-(4-chlorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)methyl-[1,2,4]triazolo[4,3-b]pyridazin-3 (2H)-one.

reactant | 7-chloro-8-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C11H6Cl2N4O
reactant | 5-(bromomethyl)-2-(trifluoromethyl)pyridine | BrCC=1C=CC(=NC1)C(F)(F)F | C7H5BrF3N
product | 7-chloro-8-(4-chlorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)methyl-[1,2,4]triazolo[4,3-b]pyridazin-3 (2H)-one | ClC1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C18H10Cl2F3N5O
